* Piezo Mic Preamp Circuit
* Target: 0-3.3V output for ADC input
* High input impedance for piezo element

.title Piezo Microphone Preamplifier

* Power supply
VDD 1 0 DC 3.3V

* Piezo mic model (voltage source with high impedance)
* Typical piezo: ~1nF capacitance, generates ~100mV signals
Vpiezo piezo 0 AC 0.1 SIN(0 0.1 1k)
Cpiezo piezo in 1n
Rpiezo piezo in 10Meg

* Input stage - high impedance buffer
* Using JFET input op-amp model
.subckt opamp_jfet inp inn out vdd vss
* Simplified op-amp model with JFET input stage
Rin inp inn 1000Meg
Egain int1 0 inp inn 100000
Rout int1 out 100
.ends

* First stage: Unity gain buffer for impedance matching
XU1 in 0 buf1 1 0 opamp_jfet
R1 buf1 in 1Meg
C1 in 0 100p

* AC coupling and bias
C2 buf1 ac_coupled 1u
R2 ac_coupled vbias 100k
R3 vbias 0 100k
R4 1 vbias 100k
* Creates Vbias = VDD/2 = 1.65V

* Second stage: Adjustable gain amplifier
XU2 ac_coupled fb out 1 0 opamp_jfet
* Gain = 1 + Rf/Rg = 1 + 10k/1k = 11
Rf fb out 10k
Rg fb 0 1k
* DC feedback to maintain bias
Rfb out vbias 1Meg

* Output filter
Cout out out_filtered 10u
Rload out_filtered 0 10k

* Analysis commands
.ac dec 100 1 100k
.tran 1u 10m

* Control commands
.control
run
* Plot frequency response
plot vdb(out) xlimit 10 100k ylabel 'Gain (dB)' title 'Frequency Response'
plot vp(out)*180/pi xlimit 10 100k ylabel 'Phase (degrees)'
* Plot transient response
plot v(in) v(out) xlimit 0 5m ylabel 'Voltage (V)' title 'Input vs Output'
plot v(out) xlimit 0 5m ylabel 'Output Voltage (V)' title 'Output Waveform'
print v(vbias)
.endc

.end