* Piezo Mic Preamp Circuit - Fixed Version
* Target: 0-3.3V output for ADC input
* High input impedance for piezo element

.title Piezo Microphone Preamplifier

* Power supply
VDD vdd 0 DC 3.3V
VSS vss 0 DC 0

* Piezo mic model (voltage source with high impedance)
* Typical piezo: ~1nF capacitance, generates ~10-100mV signals
Vpiezo piezo 0 AC 0.05 SIN(0 0.05 1k)
Cpiezo piezo in 1n
Rpiezo piezo in 10Meg

* Bias voltage generation (VDD/2 = 1.65V)
R_bias1 vdd vbias 100k
R_bias2 vbias 0 100k
C_bias vbias 0 10u

* Input stage - Unity gain buffer with high input impedance
* Using voltage-controlled voltage source as ideal op-amp
E_buffer1 buf1 0 in vbias 1e6
R_buf1_out buf1 buf1_out 100
R_buf1_fb buf1_out in 1Meg

* AC coupling with DC restoration
C_ac buf1_out coupled 1u
R_dc coupled vbias 1Meg

* Second stage - Non-inverting amplifier
* Gain = 1 + Rf/Rg
E_amp2 amp_int 0 coupled inv2 1e6
R_amp2_out amp_int out 100

* Feedback network for gain of 10
R_gain_fb out inv2 9k
R_gain_gnd inv2 vbias 1k

* Output limiting (simple diode clamp model)
D_high out vdd D1N4148
D_low 0 out D1N4148

* Diode model
.model D1N4148 D(Is=2.52e-9 Rs=0.568 N=1.752 Cjo=4e-12 M=0.4 Vj=0.7)

* Output load
R_load out 0 100k

* Analysis commands
.ac dec 100 1 100k
.tran 10u 10m
.op

* Control commands
.control
run
* Save results to file
wrdata piezo_preamp_ac.txt frequency vdb(out) vp(out)
wrdata piezo_preamp_tran.txt time v(in) v(out) v(vbias)
* Print DC operating point
echo "DC Operating Point:"
print v(vbias) v(out)
echo "Gain at 1kHz:"
print vdb(out)[100]
.endc

.end